US05504085
A. 1 -Benzyloxy-7-chloro-8-cyanoquinoxaline-2,3(1H, 4H)-dione
To a solution of 2,0 g (~8,4 mmol) 7-chloro-8-cyano-1-hydroxyquinoxaline-2,3(1H,4H)-dione in a mixture of 150 ml ethanol and 175 ml 0,1M phosphate buffer pH 7.4 was added 3.0 g (~17,4 mmol) of benzylbromide. Stirring was continued for 20 h at 24° C. The precipitate was filtered off to give the title compound (2.7 g; 98%), m.p. 227°-229° C.

reactant | 7-chloro-8-cyano-1-hydroxyquinoxaline-2,3(1H,4H)-dione | ~8,4 mmol, 2,0 g | ClC1=CC=C2NC(C(N(C2=C1C#N)O)=O)=O | C9H4ClN3O3
reactant | benzylbromide | ~17,4 mmol, 3.0 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | phosphate | 0,1M, 175 ml, pH 7.4 | P(=O)([O-])([O-])[O-]
product | 1 -Benzyloxy-7-chloro-8-cyanoquinoxaline-2,3(1H, 4H)-dione | 2.7 g, 98% | C(C1=CC=CC=C1)ON1C(C(NC2=CC=C(C(=C12)C#N)Cl)=O)=O | C16H10ClN3O3
